US06423843B1
1-Benzyloxycarbonyl-4-ethoxycarbonyl-3-oxopyrrolidine
Ethyl acrylate (65.01 ml, 600.0 mmol) was added to a toluene (1,200 ml) solution containing N-benzyloxycarbonylglycine ethyl ester (156.3 g, 600.0 mmol) and then, under ice-cooling, sodium hydride (60% oil; 26.40 g, 660.0 mmol) was added thereto. After 10 minutes of stirring at the same temperature, the ice bath was taken off, and the mixture was stirred at room temperature for 20 minutes and then at 50° C. for 3 hours. After completion of the reaction, and under ice-cooling, the reaction solution was adjusted to about pH 3 by adding 10% citric acid aqueous solution and mixed with ethyl acetate, and the mixture was shaken and then subjected to separation of layers. The organic layer was separated and washed with saturated brine, and the water layer was further extracted with ethyl acetate. The organic layers were dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under a reduced pressure to obtain 196.7 g (600.0 mmol, quantitative) of the title compound.

reactant | Ethyl acrylate | 600.0 mmol, 65.01 ml | C(C=C)(=O)OCC | C5H8O2
reactant | N-benzyloxycarbonylglycine ethyl ester | 600.0 mmol, 156.3 g | C(C)OC(CNC(=O)OCC1=CC=CC=C1)=O | C12H15NO4
reactant | sodium hydride | 660.0 mmol, 26.40 g | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1,200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyloxycarbonyl-4-ethoxycarbonyl-3-oxopyrrolidine | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)C(=O)OCC)=O | C15H17NO5
